US07405210B2
1H-Pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-phenoxyethyl)amide
The title compound was prepared as outlined in EXAMPLE 1 from 1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 15) and 2-phenoxyethylamine to give the title compound as a pale yellow solid. δH (CD3OD): 3.81 (2H, t), 4.18 (2H, t), 6.89–6.97 (3H, m), 7.14 (1H, s), 7.26 (2H, t), 7.65 (1H, d), 8.10 (1H, d), 8.78 (1H, s); m/z (ES+)=282 [M+H]+.

reactant | 1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | N1C(=CC=2C1=CN=CC2)C(=O)O | C8H6N2O2
reactant | 2-phenoxyethylamine | O(C1=CC=CC=C1)CCN | C8H11NO
product | 1H-Pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-phenoxyethyl)amide | O(C1=CC=CC=C1)CCNC(=O)C1=CC=2C(=CN=CC2)N1 | C16H15N3O2
